US08470841B2
26d N-{3-[4-(5-Isopropoxypyrimidin-2-yloxy)phenyl]-1-methylpropyl}acetamide
N-{3-[4-(5-Hydroxypyrimidin-2-yloxy)phenyl]-1-methylpropyl}acetamide (125 mg, 0.41 mg) was reacted with 2-iodopropane in analogy to example 36f. Yield: 9 mg (6%), M+H+: 344.14.

reactant | N-{3-[4-(5-Hydroxypyrimidin-2-yloxy)phenyl]-1-methylpropyl}acetamide | 125 mg | OC=1C=NC(=NC1)OC1=CC=C(C=C1)CCC(C)NC(C)=O | C16H19N3O3
reactant | 2-iodopropane | IC(C)C | C3H7I
product | N-{3-[4-(5-Isopropoxypyrimidin-2-yloxy)phenyl]-1-methylpropyl}acetamide | C(C)(C)OC=1C=NC(=NC1)OC1=CC=C(C=C1)CCC(C)NC(C)=O | C19H25N3O3
